US08557872B2
Step 4: Synthesis of 3-(2-propylamino-4-trifluoromethyl-phenyl)-acrylic acid methyl ester
N-Methoxy-N-methyl-2-propylamino-4-trifluoromethyl-benzamide (98.3 mg, 0.339 mmol) was reacted with 1M lithium aluminum hydride (0.6 ml) in THF (20 ml) at −40° C. for 1 hr. The reaction mixture was quenched by adding saturated potassium hydrogen sulfate solution. The mixture was stirred for 30 min. The reactions solvent was removed in vacuo. Water (30 ml) was added to the resulting residue, which was extracted with CH2Cl2 (30 ml×3). The combined organic layer was dried over MgSO4 and concentrated in vacuo to yield 2-propylamino-4-trifluoromethyl-benzaldehyde (78 mg). 2-Propylamino-4-trifluoromethyl-benzaldehyde in toluene was reacted with methyl (triphenylphosphoranylidene) acetate (137 mg) at 100° C. overnight. The reaction solvent was removed in vacuo. Water (30 ml) was added to the resulting residue, which was extracted with ethyl acetate (30 ml×3). The combined organic layer was dried over MgSO4 and filtered. The filterate was concentrated in vacuo and purified with column chromatography to yield title compound (67 mg, 69%).

reactant | 2-Propylamino-4-trifluoromethyl-benzaldehyde | C(CC)NC1=C(C=O)C=CC(=C1)C(F)(F)F | C11H12F3NO
reactant | methyl (triphenylphosphoranylidene) acetate | 137 mg | COC(=O)C=P(C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3 | C21H19O2P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-(2-propylamino-4-trifluoromethyl-phenyl)-acrylic acid methyl ester | 67 mg, 69% | COC(C=CC1=C(C=C(C=C1)C(F)(F)F)NCCC)=O | C14H16F3NO2
